### PR TITLE
[Merged by Bors] - feat(UniformSpace/CompactConvergence): prove metrizability

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/UniformSpace/CompactConvergence.lean [hunk 1]
```diff
@@ -223,6 +221,29 @@ theorem mem_compactConvergence_entourage_iff (X : Set (C(α, β) × C(α, β)))
   simp [hasBasis_compactConvergenceUniformity.mem_iff, and_assoc]
 #align continuous_map.mem_compact_convergence_entourage_iff ContinuousMap.mem_compactConvergence_entourage_iff
 
+theorem _root_.CompactExhaustion.hasBasis_compactConvergenceUniformity {ι : Type*}
+    {p : ι → Prop} {V : ι → Set (β × β)} (K : CompactExhaustion α) (hb : (𝓤 β).HasBasis p V) :
+    HasBasis (𝓤 C(α, β)) (fun i : ℕ × ι ↦ p i.2) fun i ↦
+      {fg | ∀ x ∈ K i.1, (fg.1 x, fg.2 x) ∈ V i.2} := by
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/CompactConvergence.lean:227]: Unless I'm missing something, I think this is already true at the level of `UniformOnFun` without more work. That said, we may want a more general result in that setup, so do as you want.

File: Mathlib/Topology/Compactness/SigmaCompact.lean [hunk 2]
```diff
@@ -378,6 +378,15 @@ theorem exists_mem (x : X) : ∃ n, x ∈ K n :=
   iUnion_eq_univ_iff.1 K.iUnion_eq x
 #align compact_exhaustion.exists_mem CompactExhaustion.exists_mem
 
+/-- A compact exhaustion eventually covers any compact set. -/
+theorem exists_isCompact_subset {s : Set X} (hs : IsCompact s) : ∃ n, s ⊆ K n := by
+  suffices ∃ n, s ⊆ interior (K n) from this.imp fun _ ↦ (Subset.trans · interior_subset)
+  refine hs.elim_directed_cover (interior <| K ·) (fun _ ↦ isOpen_interior) ?_ ?_
```
Comment (ADedecker) [inline Mathlib/Topology/Compactness/SigmaCompact.lean:384]:
```suggestion
  refine hs.elim_directed_cover (interior ∘ K) (fun _ ↦ isOpen_interior) ?_ ?_
```

File: Mathlib/Topology/Compactness/SigmaCompact.lean [hunk 3]
```diff
@@ -378,6 +378,15 @@ theorem exists_mem (x : X) : ∃ n, x ∈ K n :=
...
+  · intro x _
+    rcases K.exists_mem x with ⟨k, hk⟩
+    exact mem_iUnion.2 ⟨k + 1, K.subset_interior_succ _ hk⟩
+  · exact Monotone.directed_le <| fun _ _ h ↦ interior_mono <| K.subset h
```
Comment (ADedecker) [inline Mathlib/Topology/Compactness/SigmaCompact.lean:388]:
```suggestion
  · exact Monotone.directed_le fun _ _ h ↦ interior_mono <| K.subset h
```

File: Mathlib/Topology/UniformSpace/CompactConvergence.lean [hunk 4]
```diff
@@ -223,6 +221,29 @@ theorem mem_compactConvergence_entourage_iff (X : Set (C(α, β) × C(α, β)))
...
+  rcases K.exists_isCompact_subset hL with ⟨n, hn⟩
+  exact ⟨(n, i), hi, fun _fg h x hx ↦ h x <| hn hx⟩
+
+/-- If `α` is a weakly locally compact σ-compact space
+(e.g., a proper pseudometric space or a compact spaces)
+and the uniformity on `β` is pseudometrizable,
+then the uniformity on `C(α, β)` is pseudometrizable too.
+
+TODO: prove a corollary in terms of pseudometrizable topologies,
+maybe after we redefine it without `MetricSpace`s, see #2032. -/
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/CompactConvergence.lean:240]: Do you mean that it will become easier with this? I don't see why, in fact I think it would be fairly straightforward in the current situation? Am I missing something obvious?

File: Mathlib/Topology/UniformSpace/CompactConvergence.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Topology/UniformSpace/CompactConvergence.lean:227]: What result is true for `UniformOnFun`?

File: Mathlib/Topology/UniformSpace/CompactConvergence.lean (hunk 4 above)
Comment (urkud) [reply Mathlib/Topology/UniformSpace/CompactConvergence.lean:240]: We won't need to `import` metric spaces for that result. I can add a temporary file that `import`s enough and prove metrizability there.

Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/CompactConvergence.lean:240]: Ah, I didn't realize that was an import issue. Yes I think it would be best to add the `PseudoMetrizableSpace` result already in another file, if that's fine for you.

File: Mathlib/Topology/UniformSpace/CompactConvergence.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/CompactConvergence.lean:227]: For `α →ᵤ[{K | IsCompact K}] β` all of your results are already true (both the explicit basis and the countably generated uniformity). More generally, if `𝔖` is an ideal and you have a basis of your ideal, then you have the same basis result for `α →ᵤ[𝔖] β` (eventually [UniformOnFun.hasBasis_uniformity_of_basis](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/UniformConvergenceTopology.html#UniformOnFun.hasBasis_uniformity_of_basis) should be stated this way), hence if `𝔖` is a countably generated ideal and `𝓤 β` is a countably generated filter then `α →ᵤ[𝔖] β` has countably generated uniformity.

Comment (urkud) [reply Mathlib/Topology/UniformSpace/CompactConvergence.lean]: Added relevant generalizations.

File: Mathlib/Topology/UniformSpace/CompactConvergence.lean (hunk 4 above)
Comment (urkud) [reply Mathlib/Topology/UniformSpace/CompactConvergence.lean]: Done.

File: Mathlib/Order/Filter/Bases.lean [hunk 5]
```diff
@@ -1075,6 +1079,10 @@ theorem HasAntitoneBasis.hasBasis_ge [Preorder ι] [IsDirected ι (· ≤ ·)] {
     ⟨j, trivial, Subset.rfl⟩
 #align filter.has_antitone_basis.has_basis_ge Filter.HasAntitoneBasis.hasBasis_ge
 
+theorem HasAntitoneBasis.isCountablyGenerated [Preorder ι] [Countable ι] {l : Filter α}
```
Comment (ADedecker) [inline Mathlib/Order/Filter/Bases.lean:1082]: Why do you assume `HasAntitoneBasis` instead of just `HasBasis`? Of course in a lot of cases you'll get an `HasAntitoneBasis` directly, but in other cases you need to do more work to get it, and I don't see why you'd want to do it?

File: Mathlib/Topology/Metrizable/ContinuousMap.lean [hunk 6]
```diff
@@ -0,0 +1,32 @@
...
+  [TopologicalSpace X] [WeaklyLocallyCompactSpace X] [SigmaCompactSpace X]
+  [TopologicalSpace Y]
+
+instance [PseudoMetrizableSpace Y] : PseudoMetrizableSpace C(X, Y) :=
+  let _ := pseudoMetrizableSpacePseudoMetric Y
+  inferInstance
+
+instance [MetrizableSpace Y] : MetrizableSpace C(X, Y) :=
+  let _ := metrizableSpaceMetric Y
+  UniformSpace.metrizableSpace
```
Comment (ADedecker) [inline Mathlib/Topology/Metrizable/ContinuousMap.lean:30]: Side note: do you know why `UniformSpace.pseudoMetrizableSpace` can be an instance but `UniformSpace.metrizableSpace` cannot?

File: Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean [hunk 7]
```diff
@@ -652,6 +652,51 @@ protected theorem hasBasis_uniformity (h : 𝔖.Nonempty) (h' : DirectedOn (· 
...
+  refine (UniformOnFun.hasBasis_uniformity_of_basis α β 𝔖 hne hd hb).to_hasBasis
+    (fun ⟨s, i'⟩ ⟨hs, hi'⟩ ↦ ?_) fun ⟨i, i'⟩ hi' ↦ ⟨(t i, i'), ⟨ht i, hi'⟩, Subset.rfl⟩
+  rcases hex s hs with ⟨i, hi⟩
+  exact ⟨(i, i'), hi', UniformOnFun.gen_mono hi Subset.rfl⟩
+
+/-- If `t n` is a monotone sequence of sets in `𝔖`
+such that each `s ∈ 𝔖` is included in some `t n`
+and `V n` is an antitone basis of entourages of `β`,
+then `UniformOnFun.gen 𝔖 (t n) (V n)` is an antitone basis of entourages of `α →ᵤ[𝔖] β`. -/
+protected theorem hasAntitoneBasis_uniformity {t : ℕ → Set α} {V : ℕ → Set (β × β)}
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean:681]: As I said above, I think we can just get rid of this lemma since the fact that the basis is antitone has nothing to do with countable generation. Do you have any other use for it?

File: Mathlib/Order/Filter/Bases.lean (hunk 5 above)
Comment (urkud) [reply Mathlib/Order/Filter/Bases.lean:1082]: We already have `HasCountableBasis.isCountablyGenerated`. I'll add `HasBasis.isCountablyGenerated` as well.

File: Mathlib/Topology/Metrizable/ContinuousMap.lean (hunk 6 above)
Comment (urkud) [reply Mathlib/Topology/Metrizable/ContinuousMap.lean:30]: In Lean 4 it can. In Lean 3 this would lead to a cycle.

File: Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean (hunk 7 above)
Comment (urkud) [reply Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean:681]: I found 3 lemmas that can be useful (i.e. that don't output new `HasAntitoneBasis` statements): [Filter.HasAntitoneBasis.tendsto](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/AtTopBot.html#Filter.HasAntitoneBasis.tendsto), [Filter.HasAntitoneBasis.eventually_subset](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/AtTopBot.html#Filter.HasAntitoneBasis.eventually_subset), and [Filter.HasAntitoneBasis.tendsto_smallSets](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/SmallSets.html#Filter.HasAntitoneBasis.tendsto_smallSets).

File: Mathlib/Topology/Metrizable/ContinuousMap.lean (hunk 6 above)
Comment (ADedecker) [reply Mathlib/Topology/Metrizable/ContinuousMap.lean:30]: Okay I realized the problem is not where I thought. I was thinking of some cycle involving `MetricSpace`, but didn't realize the trouble is `MetrizableSpace -> T0Space`.

File: Mathlib/Order/Filter/Bases.lean (hunk 5 above)
Comment (ADedecker) [reply Mathlib/Order/Filter/Bases.lean:1082]: I'm aware of `HasCountableBasis.isCountablyGenerated`, but my point was that the `HasBasis` version would be a drop-in replacement for the `HasAntitoneBasis` one, since dot notation should be able to find its way through the `extends`, while you would need some extra glue to use `HasCountableBasis` directly.

File: Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean (hunk 7 above)
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean:681]: Ah yes the diagonal basis is a good point, I should have looked more carefully. So let's keep that indeed. Could you replace `ℕ` by any index type satisfying [IsDirected](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Directed.html#IsDirected)?

**Review by ADedecker — APPROVED** [review]
Thanks!

bors merge
